US08034945B2
(a). 3-Bromo-4-hydroxy-5-nitro-benzaldehyde
3-Bromo-4-hydroxybenzaldehyde (250 mg) was dissolved in 5 ml of acetic acid. Nitric acid (52 μl) was added and the mixture was stirred for 3 h during which a solid formed. The solid was filtered off, washed with water and dried in vacuo.

reactant | 3-Bromo-4-hydroxybenzaldehyde | 250 mg | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | Nitric acid | 52 μl | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-4-hydroxy-5-nitro-benzaldehyde | BrC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H4BrNO4
